US09120749B2
{6-(3-Chloro-4-hydroxyphenyl)-4-[4-(morpholinomethyl)piperidin-1-yl]quinolin-3-yl}(cyclopropyl)methanone
Following general procedure D, {6-bromo-4-[4-(morpholinomethyl)piperidin-1-yl]quinolin-3-yl}(cyclopropyl)methanone (30 mg, 0.065 mmol) was reacted with 3-chloro-4-hydroxyphenylboronic acid (34 mg, 0.200 mmol) to afford the desired product (20.3 mg, 62%) as an off-white solid: 1H NMR (500 MHz, CD3OD) δ 8.73 (s, 1H), 8.29 (s, 1H), 8.04-7.98 (m, 2H), 7.71 (d, J=2.3 Hz, 1H), 7.54 (dd, J=8.4, 2.3 Hz, 1H), 7.07 (d, J=8.4 Hz, 1H), 3.74-3.71 (m, 3H), 3.53 (d, J=12.7 Hz, 2H), 3.34 (s, 3H), 3.26-3.15 (m, 2H), 2.59-2.46 (m, 4H), 2.38 (d, J=6.7 Hz, 2H), 1.98 (d, J=12.9 Hz, 3H), 1.66-1.52 (m, 2H), 1.36-1.27 (m, 2H), 1.27-1.20 (m, 2H); ESI MS m/z 506 [C29H32ClN3O3+H]+; HPLC 98.0% (AUC), tR=10.44 min.

reactant | {6-bromo-4-[4-(morpholinomethyl)piperidin-1-yl]quinolin-3-yl}(cyclopropyl)methanone | 0.065 mmol, 30 mg | BrC=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)N1CCC(CC1)CN1CCOCC1 | C23H28BrN3O2
reactant | 3-chloro-4-hydroxyphenylboronic acid | 0.200 mmol, 34 mg | ClC=1C=C(C=CC1O)B(O)O | C6H6BClO3
product | {6-(3-Chloro-4-hydroxyphenyl)-4-[4-(morpholinomethyl)piperidin-1-yl]quinolin-3-yl}(cyclopropyl)methanone | 20.3 mg, 62% | ClC=1C=C(C=CC1O)C=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)N1CCC(CC1)CN1CCOCC1 | C29H32ClN3O3
